US07375119B2
Dimethyl trans-cyclohexane-1,4-dicarboxylate (150.0 g) obtained in (1) above is dissolved in tetrahydrofuran (1500 ml), and to the solution is added dropwise a mixed solution of 28% sodium methoxide/methanol (149 g) and water (13.2 g) under ice-cooling. The reaction solution is warmed to room temperature, stirred for 3.5 hours, and thereto is poured n-hexane (1500 ml) and the mixture is filtered to collect the precipitates. The resulting solid is added to a mixture of conc. hydrochloric acid (50 ml), water (450 ml) and chloroform (1000 ml) under ice-cooling, and the mixture is stirred at room temperature for 20 minutes. The chloroform layer is separated and the aqueous layer is extracted with chloroform. The organic layers are combined, dried over sodium sulfate and evaporated to remove the solvent under reduced pressure. The resulting residue is crystallized from n-hexane, collected by filtration and dried to give trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid (106.0 g).

reactant | sodium methoxide methanol | 149 g | C[O-].[Na+].CO
reactant | water | 13.2 g | O | H2O
reactant | n-hexane | 1500 ml | CCCCCC | C6H14
reactant | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
product | trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid | 106.0 g | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
